US05366988
Synthesis of O-isopropyl-3-isopentylbenzohydroximoyl chloride
To 200 ml of acetonitrile were added 5.4 g (23.5 mmol) of O-isopropyl 3-isopentylbenzohydroxamic acid, 9.9 g (37.8 mmol) of triphenylphosphine, and 11.6 g (75.3 mmol) of carbon tetrachloride. The mixture was refluxed for 1 hour. The refluxed mixture was allowed to sit and cool naturally, and the solvent in the mixture was removed under reduced pressure. The residue was purified by column chromatography, thus obtaining the desired product of 5.1 g (yield: 88% ).

reactant | O-isopropyl 3-isopentylbenzohydroxamic acid | 23.5 mmol, 5.4 g | C(C)(C)ONC(C1=CC(=CC=C1)CCC(C)C)=O | C15H23NO2
reactant | triphenylphosphine | 37.8 mmol, 9.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 75.3 mmol, 11.6 g | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | O-isopropyl-3-isopentylbenzohydroximoyl chloride | yield: 88% | C(C)(C)ON=C(C1=CC(=CC=C1)CCC(C)C)Cl | C15H22ClNO
